US08222248B2
A solution of 2-(2,6-dichloro-phenyl)-1H-indole-5-carboxylic acid methyl ester in 2N LiOH aqueous solution (1 mL) and THF (1 mL) was stirred at room temperature for 16 h. The mixture was washed with Et2O. The aqueous layer was acidified with 1N HCl aqueous solution, extracted with Et2O. The organic extracts were dried over Na2SO4, filtered and concentrated under reduced pressure to give 2-(2,6-dichloro-phenyl)-1H-indole-5-carboxylic acid as a white solid: MS (m/z) 306.1 (M+1).

reactant | 2-(2,6-dichloro-phenyl)-1H-indole-5-carboxylic acid methyl ester | COC(=O)C=1C=C2C=C(NC2=CC1)C1=C(C=CC=C1Cl)Cl | C16H11Cl2NO2
solvent | LiOH | 2N, 1 mL | [Li+].[OH-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-(2,6-dichloro-phenyl)-1H-indole-5-carboxylic acid | ClC1=C(C(=CC=C1)Cl)C=1NC2=CC=C(C=C2C1)C(=O)O | C15H9Cl2NO2
